US07553840B2
A microwave vial (2 ml) was charged with (S)-3-(4-{2-amino-6-[(S)-1-(4-bromo-phenyl)-2,2,2-trifluoro-ethoxy]-pyrimidin-4-yl}-phenyl)-2-tert-butoxycarbonylamino-propionic acid (139 mg, 0.23 mmol), 4-trifluoromethylpyridine-3-boronic acid (61 mg, 0.3 mmol), 1 ml of acetonitrile, and 0.7 ml of water. To this mixture was added 0.4 ml of aqueous sodium carbonate (1M), followed by 14 mg of dichlorobis(triphenylphosphine)-palladium(II). The reaction vessel was sealed and heated to 150° C. for 5 minutes with microwave irradiation. After cooling, the reaction mixture was evaporated to dryness, the residue was dissolved in 2.5 ml of methanol and was purified by preparative HPLC to give 20 mg of (S)-3-[4-(2-amino-6-{(S)-2,2,2-trifluoro-1-[4-(4-trifluoromethyl-pyridin-3-yl)-phenyl]-ethoxy}-pyrimidin-4-yl)-phenyl]-2-tert butoxycarbonylamino-propionic acid

reactant | (S)-3-(4-{2-amino-6-[(S)-1-(4-bromo-phenyl)-2,2,2-trifluoro-ethoxy]-pyrimidin-4-yl}-phenyl)-2-tert-butoxycarbonylamino-propionic acid | 0.23 mmol, 139 mg | NC1=NC(=CC(=N1)C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C)O[C@H](C(F)(F)F)C1=CC=C(C=C1)Br | C26H26BrF3N4O5
reactant | 4-trifluoromethylpyridine-3-boronic acid | 0.3 mmol, 61 mg | FC(C1=C(C=NC=C1)B(O)O)(F)F | C6H5BF3NO2
reactant | acetonitrile | 1 ml | C(C)#N | C2H3N
reactant | sodium carbonate | 1M, 0.4 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | dichlorobis(triphenylphosphine)-palladium(II) | 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 0.7 ml | O | H2O
product | (S)-3-[4-(2-amino-6-{(S)-2,2,2-trifluoro-1-[4-(4-trifluoromethyl-pyridin-3-yl)-phenyl]-ethoxy}-pyrimidin-4-yl)-phenyl]-2-tert butoxycarbonylamino-propionic acid | 20 mg | NC1=NC(=CC(=N1)C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C)O[C@H](C(F)(F)F)C1=CC=C(C=C1)C=1C=NC=CC1C(F)(F)F | C32H29F6N5O5
